US04107326
1-Amino-2-benzyl-3-methylguanidine hydroiodide
A solution of 36.0 g. of methyl N-methylthiocarbazimidate hydroiodide and 16.1 g. of benzylamine in 100 ml. of water is heated on a steam bath for one hour and then allowed to stand at room temperature overnight. The reaction mixture is concentrated under reduced pressure. The residue is dissolved in ethanol, treated with activated charcoal and filtered. The filtrate is concentrated to a small volume under reduced pressure and the residual solution is diluted with diethyl ether. The resultant crystals are recovered by filtration and recrystallized from a mixture of ethanol and diethyl ether, giving the desired product as pale pink crystals, m.p. 118°-119° C.

reactant | methyl N-methylthiocarbazimidate hydroiodide | I.CN=C(NN)SC
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | water | O | H2O
product | 1-Amino-2-benzyl-3-methylguanidine hydroiodide | I.NNC(=NCC1=CC=CC=C1)NC | InChI=1S/C9H14N4.HI/c1-11-9(13-10)12-7-8-5-3-2-4-6-8;/h2-6H,7,10H2,1H3,(H2,11,12,13);1H
